US08044041B2
4-{(2-[(4-Chloro-1-oxo-1,2-dihydro-phthalazin-6-ylamino)-methyl]-phenyl}-perhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester
A mixture of 6-bromo-4-chloro-2H-phthalazin-1-one (140 mg, 0.54 mmol), 4-(2-Aminomethyl-phenyl)-perhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester (150 mg, 0.49 mmol), Pd2(dba)3 (45 mg, 0.049 mmol), BINAP (92 mg, 0.15 mmol) and NaOt-Bu (138 mg, 1.47 mmol) in DMA (10 mL) was purged with nitrogen for 10 min. The mixture was heated at 90° C. for 5 h. The mixture was allowed to cool and diluted with ethyl acetate (30 mL) and washed with ammonium chloride (25 mL). The organic layer was dried and concentrated. Chromatography on silica yielded the title compound (25 mg, 11%) m/z (M+H)=484.72.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.54 mmol, 140 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 4-(2-Aminomethyl-phenyl)-perhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester | 0.49 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=C(C=CC=C1)CN | C17H27N3O2
reactant | BINAP | 0.15 mmol, 92 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 1.47 mmol, 138 mg | CC(C)(C)[O-].[Na+]
reactant | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd2(dba)3 | 0.049 mmol, 45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-[(4-Chloro-1-oxo-1,2-dihydro-phthalazin-6-ylamino)-methyl]-phenyl}-perhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester | 25 mg, 11% | C(C)(C)(C)OC(=O)N1C(CNCCC1)C1=C(C=CC=C1)CNC=1C=C2C(=NNC(C2=CC1)=O)Cl | C25H30ClN5O3
